US05457134
Synthesis of 3,4,4-trifluoro-3-butenoic acid, phenylmethyl ester (Compound 113)
A solution of 3,4,4-trifluoro-3-butenoyl chloride (2.8 g, 0.0176 mole) and benzyl alcohol (0.9 g, 0.0083 mole) in 20 mL dichloromethane is heated at reflux for 40 h. The solution is cooled to room temperature, diluted with dichloromethane (15 mL), washed successively with 5% sodium bicarbonate, water and brine, and dried. Evaporation of the solvent gave 1.75 g of analytically pure product as a pale yellow oil, a 92% yield.

reactant | 3,4,4-trifluoro-3-butenoyl chloride | 0.0176 mole, 2.8 g | FC(CC(=O)Cl)=C(F)F | C4H2ClF3O
reactant | benzyl alcohol | 0.0083 mole, 0.9 g | C(C1=CC=CC=C1)O | C7H8O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3,4,4-trifluoro-3-butenoic acid, phenylmethyl ester | 92% yield | FC(CC(=O)OCC1=CC=CC=C1)=C(F)F | C11H9F3O2
